US05055458
A solution of diethyl 4-t-butyldimethylsilyloxy -3-hydroxybutoxymethylphosphonate (0.49 g, 1.31 mmol), 2-[bis(t-butoxycarbonylamino]-9-hydroxy-6-methoxypurine (0.5 g, 1.31 mmol) and triphenylphosphine (0.52 g, 19.7 mmol) in tetrahydrofuran (50 ml) was cooled to 0° C. and treated with diethyl azodicarboxylate (0.31 ml, 1.97 mmol) before stirring for 4 h at 20° C. under nitrogen. The solution was evaporated in vacuo and the residue chromatographed twice on silica, eluting with chloroform-methanol 100:1 and then dichloromethanemethanol 200:1, affording 2-[bis(t-butoxycarbonyl)amino]-9-[1-(t-butyldimethylsilyloxy)-4-(diethoxyphosphorylmethoxy)but-2-oxy]-6-methoxypurine (0.45 g, 47%) as a clear oil. νmax (film) 3450, 1790, 1750, 1600, 1470, 1440 and 1390 cm-1 ; δH (CDCl3) 0.05 (6H, s, Si(CH3)2), 0.83 (9H, s, (CH3)3CSi), 1.27 (6H, t, J6.9 Hz, 2×CH2CH3), 1.40 (18H, s, 2×(CH3)3CN), 2.01 (2H, m, PCH2OCH2CH2), 3.74 (6H, m, CH2OCH2P+CH20Si), 4.09 (7H, m, 2×CH2CH3 +OCH3), 4.50 (1H, m, CHCH2Si), 8.10 (1H, s, H-8). Found: C, 50.54; H, 7.66; N, 9.38%; C31H56N5O11PSi requires C, 50.74; H, 7.69; N, 9.54%.

reactant | diethyl 4-t-butyldimethylsilyloxy -3-hydroxybutoxymethylphosphonate | 1.31 mmol, 0.49 g | [Si](C)(C)(C(C)(C)C)OCC(CCOCP(OCC)(OCC)=O)O | C15H35O6PSi
reactant | bis(t-butoxycarbonylamino]-9-hydroxy-6-methoxypurine | 1.31 mmol, 0.5 g | C(C)(C)(C)OC(=O)NC=1N(C2=NC(=NC(=C2N1)OC)NC(=O)OC(C)(C)C)O | C16H24N6O6
reactant | triphenylphosphine | 19.7 mmol, 0.52 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 1.97 mmol, 0.31 ml | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 2-[bis(t-butoxycarbonyl)amino]-9-[1-(t-butyldimethylsilyloxy)-4-(diethoxyphosphorylmethoxy)but-2-oxy]-6-methoxypurine | 0.45 g, 47% | C(C)(C)(C)OC(=O)N(C1=NC(=C2N=CN(C2=N1)OC(CO[Si](C)(C)C(C)(C)C)CCOCP(=O)(OCC)OCC)OC)C(=O)OC(C)(C)C | C31H56N5O11PSi
